US04937160
Carbomethoxymethylpyridinium bromide is synthesized by reacting bromoacetic acid methylester with dry pyridine in acetone at room temperature The product precipitates out as a white crystalline solid during the reaction and can be used without further purification.

reactant | bromoacetic acid methylester | COC(CBr)=O | C3H5BrO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | acetone | CC(=O)C | C3H6O
product | Carbomethoxymethylpyridinium bromide | [Br-].C(=O)(OC)C[N+]1=CC=CC=C1 | InChI=1S/C8H10NO2.BrH/c1-11-8(10)7-9-5-3-2-4-6-9;/h2-6H,7H2,1H3;1H/q+1;/p-1
